US06359134B1
1-(4-Chlorostyrene-β-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine
To a solution of 1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine dihydrochloride (200 mg) in ethyl acetate (10 ml)/sodium bicarbonate (10 ml) was added 4-chlorostyrene-β-sulfonylchloride (275 mg), and the mixture was stirred at room temperature for 1 hour. The ethyl acetate layer was separated, washed with brine, dried and concentrated. The residue was purified with silica gel column chromatography (ethyl acetate) to give colorless crystals of the title compound (169 mg).

reactant | 1-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine dihydrochloride | 200 mg | Cl.Cl.CC=1N=C(SC1C(=O)N1CCNCC1)C1=CC=NC=C1
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
reactant | 4-chlorostyrene-β-sulfonylchloride | 275 mg | ClC1=CC=C(C=CS(=O)(=O)Cl)C=C1 | C8H6Cl2O2S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Chlorostyrene-β-sulfonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine | 169 mg | ClC1=CC=C(C=CS(=O)(=O)N2CCN(CC2)C(=O)C2=C(N=C(S2)C2=CC=NC=C2)C)C=C1 | C22H21ClN4O3S2
